US07094900B2
N-({(5S)-2-oxo-3-[4-(2-oxopiperidin-4-yl)phenyl]-1,3-oxazolidin-5-yl}methyl)acetamide is prepared as described in the route described in Example 16 substituting tert-butyl [(5S)-3-(4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methylcarbamate for N-{[(5S)-3-(3-fluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide. 1H-NMR (DMSO) δ: 8.25, 7.55, 7.47, 7.30, 4.70, 4.10, 3.73, 3.40, 3.17, 3.02, 2.31, 1.87, 1.83

reactant | tert-butyl [(5S)-3-(4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methylcarbamate | IC1=CC=C(C=C1)N1C(O[C@H](C1)CNC(OC(C)(C)C)=O)=O | C15H19IN2O4
reactant | N-{[(5S)-3-(3-fluoro-4-iodophenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl}acetamide | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CNC(C)=O)=O | C12H12FIN2O3
product | N-({(5S)-2-oxo-3-[4-(2-oxopiperidin-4-yl)phenyl]-1,3-oxazolidin-5-yl}methyl)acetamide | O=C1O[C@H](CN1C1=CC=C(C=C1)C1CC(NCC1)=O)CNC(C)=O | C17H21N3O4
